US08470841B2
N-{3-[4-(5-Isopropoxypyrazin-2-yloxy)phenyl]-1-methylpropyl}acetamide
2-Bromo-5-isopropoxypyrazine (100 mg, 0.46 mmol), N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide (143 mg, 0.69 mmol), cesium carbonate (300 mg, 0.92 mmol), copper iodide (8.77 mg, 0.046 mmol) and N,N-dimethylglycine hydrochloride (19.3 mg, 0.138 mmol) were stirred in 2 ml of dioxane at 100° C. under argon for 7 h. The batch was filtered, the filtrate was concentrated and admixed with ethyl acetate and water, and the organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 88 mg (56%), M+H+: 344.16.

reactant | 2-Bromo-5-isopropoxypyrazine | 0.46 mmol, 100 mg | BrC1=NC=C(N=C1)OC(C)C | C7H9BrN2O
reactant | N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide | 0.69 mmol, 143 mg | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
reactant | cesium carbonate | 0.92 mmol, 300 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylglycine hydrochloride | 0.138 mmol, 19.3 mg | Cl.CN(CC(=O)O)C
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 0.046 mmol, 8.77 mg | [Cu](I)I
product | N-{3-[4-(5-Isopropoxypyrazin-2-yloxy)phenyl]-1-methylpropyl}acetamide | C(C)(C)OC=1N=CC(=NC1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C19H25N3O3
